US09359359B2
To a solution of 7-allyl-1H-purine-2,6(3H,7H)-dione (15 g, 78.13 mmol) in DMF (200 mL) was added potassium carbonate (23.7 g, 171.74 mmol), followed by dropwise addition of iodoethane (3.6 mL, 44.54 mmol). The reaction was stirred at room temperature overnight. The reaction was concentrated and partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over sodium sulfate, and concentrated to give a crude product which was purified by silica gel chromatography eluting with petroleum/ethyl acetate (6:1 to 3:1) to give 7-allyl-3-ethyl-1H-purine-2,6(3H,7H)-dione (7 g, 40.7% yield) as yellow solid. LCMS retention time 0.402 min; LCMS MH+ 221.

reactant | 7-allyl-1H-purine-2,6(3H,7H)-dione | 78.13 mmol, 15 g | C(C=C)N1C=NC=2NC(NC(C12)=O)=O | C8H8N4O2
reactant | potassium carbonate | 171.74 mmol, 23.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 44.54 mmol, 3.6 mL | ICC | C2H5I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 7-allyl-3-ethyl-1H-purine-2,6(3H,7H)-dione | 7 g, 40.7% yield | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)CC | C10H12N4O2
